### PR TITLE
feat: Unbounded operator poset

### PR DESCRIPTION
**Pull request by gloges**
Adds the poset structure for unbounded operators, inherited from `LinearPMap`. This will allow, for example, for the simple characterization of symmetric operators as those for which `U ≤ U†`. Two inequalities, `le_closure` and `le_adjoint_adjoint` follow immediately from preexisting lemmas.

I've also structured the module doc and adopted the notation of `U : UnboundedOperator H H'` for a general unbounded operator and `T : UnboundedOperator H H` for an unbounded operator from a Hilbert to itself.

### CODE REVIEW

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 1]
```diff
@@ -55,44 +66,33 @@ variable
...
+Unbounded operators inherit the structure of a poset from `LinearPMap`,
+but *not* that of a `SemilatticeInf` because `U₁.domain ⊓ U₂.domain` may not be dense.
+-/
 
-end
+instance partialOrder : PartialOrder (UnboundedOperator H H') where
+  le := fun U₁ U₂ ↦ U₁.toLinearPMap ≤ U₂.toLinearPMap
+  le_refl := fun U ↦ Std.IsPreorder.le_refl U.1
+  le_trans := fun U₁ U₂ U₃ h₁₂ h₂₃ ↦ Std.IsPreorder.le_trans U₁.1 U₂.1 U₃.1 h₁₂ h₂₃
+  le_antisymm := fun U₁ U₂ h h' ↦ ext <| Std.IsPartialOrder.le_antisymm U₁.1 U₂.1 h h'
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]:
```suggestion
  le U₁ U₂ := U₁.toLinearPMap ≤ U₂.toLinearPMap
  le_refl _ := le_refl _
  le_trans _ _ _ h₁₂ h₂₃ := le_trans h₁₂ h₂₃
  le_antisymm _ _ h h' := ext <| le_antisymm h h'
```
Cleanup

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 2]
```diff
@@ -164,65 +166,93 @@ lemma adjoint_isClosed : (U†).IsClosed := LinearPMap.adjoint_isClosed U.dense_
...
+  toLinearPMap := LinearPMap.mk E (E.subtype ∘ₗ f)
+  dense_domain := hE
+  is_closable := by
+    refine isClosable_iff_exists_closed_extension.mpr ?_
+    use (LinearPMap.mk E (E.subtype ∘ₗ f))†
+    exact ⟨LinearPMap.adjoint_isClosed hE, IsFormalAdjoint.le_adjoint hE hf⟩
+
+@[simp]
+lemma ofSymmetric_apply (ψ : E) :
+    (ofSymmetric hE hf).toLinearPMap ψ = E.subtypeL (f ψ) := rfl
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]:
```suggestion
    (ofSymmetric hE hf) ψ = E.subtype (f ψ) := rfl
```
While what you wrote is also true I think this is a more generally useful form.

**Review by morrison-daniel — DISMISSED** [review]
A couple nit picks but otherwise looks good! Thanks!

**Comment by gloges** [comment]
Thanks, I've made the suggested changes.

**Review by morrison-daniel — APPROVED** [review]
